US05116981
5(m-Bromobenzyl)tetrahydropyran-2-one Method B
5-(3-Bromophenyl)phenylselenylmethyl-tetrahydropyran-2-one (6.7 g, 15.8 mmole) is suspended in 100 ml dry toluene in an oven dried 250 ml 3-neck round bottom flask under nitrogen. The suspension is brought to solution by warming to 65° C. The solution is treated with tributyltin hydride (4.7 ml, 17.4 mmole), stirred for 10 minutes, and treated with azo(bis)isobutyrlnitrile (0.285 g, 1.74 mmole) in one lot. The reaction mixture is stirred 1.5 hours at 65° C., cooled to room temperature, and concentrated in vacuo to a pale oil. The oil is chromatographed over 250 g silica gel (230-400 mesh), eluting with 20% ethyl acetate/hexane and after a 2500 ml forerun collecting 60 ml fractions. Fractions 10-48 are combined and concentrated to afford 3.45 g of the title compound as a pale oil. Following the above procedures gives the title compound having the physical characteristic described below:

reactant | 5-(3-Bromophenyl)phenylselenylmethyl-tetrahydropyran-2-one | 15.8 mmole, 6.7 g | BrC=1C=C(C=CC1)C=1C=CC=C(C1)C1(C(OCCC1)=O)C[SeH] | C18H17BrO2Se
reactant | tributyltin hydride | 17.4 mmole, 4.7 ml | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5(m-Bromobenzyl)tetrahydropyran-2-one | 3.45 g | BrC=1C=C(CC2CCC(OC2)=O)C=CC1 | C12H13BrO2
